US06429207B1
Preparation of 6-Quinolyl 1-adamantanecarboxylate (41)
1-Adamantanecarbonyl chloride (1.37 g, 6.90 mmol) in pyridine (5 mL) was added to a solution of 6-hydroxyquinoline (1.00 g, 6.89 mmol) in pyridine (15 mL). The reaction was stirred for 16 h. To the stirring reaction mixture was added water (200 mL) which caused the product to precipitate. This precipitate was filtered, washed with water (3×50 mL), and dried under high vacuum. This provided 1.56 g (73.7%) of (41) as a light-brown powder:

reactant | 1-Adamantanecarbonyl chloride | 6.90 mmol, 1.37 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 6-hydroxyquinoline | 6.89 mmol, 1.00 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | water | 200 mL | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 6-Quinolyl 1-adamantanecarboxylate | C12(CC3CC(CC(C1)C3)C2)C(=O)OC=2C=C3C=CC=NC3=CC2 | C20H21NO2
